US04367234
5-(2-Benzyloxyphenyl)oxazolidine-2,4-dione
By the procedure Method A of Example 12, ethyl 1-(2-benzyloxyphenyl)-1-hydroxymethanecarboximidate (13 g.) in 350 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-benzyloxyphenyl)oxazolidine-2,4-dione (7.23 g., 55%; m.p. 191°-193° C.; m/e 283).

reactant | ethyl 1-(2-benzyloxyphenyl)-1-hydroxymethanecarboximidate | 13 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C(OCC)=N)O | C17H19NO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Benzyloxyphenyl)oxazolidine-2,4-dione | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1C(NC(O1)=O)=O | C16H13NO4
